US04764519
(h) 2-[4-(5-Bromo-3-methylpyrid-2-yl)butylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine
A mixture of 3-[4-(5-bromo-3-methylpyrid-2-yl)butyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-triazolo[5,4-b]-pyridine (0.6 g) and polyphosphoric acid (ca. 6 g) was heated with stirring at 190°-200° C. for 40 minutes. The cooled residue was dissolved in aqueous ammonium hydroxide to give a solution of ca. pH 8 and extracted with chloroform (4×30 ml). The combined chloroform extracts were dried over magnesium sulphate, concentrated in vacuo and the residue was chromatographed on silica eluted with 7.5% v/v methanol in chloroform and then crystallised under ether to give the title compound (0.12 g), m.p. 164°-166° C.

reactant | 3-[4-(5-bromo-3-methylpyrid-2-yl)butyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-triazolo[5,4-b]-pyridine | 0.6 g | BrC=1C=C(C(=NC1)CCCCN1N=NC=2C1=NC=C(C2)CC=2C=NC=CC2)C | C21H21BrN6
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-[4-(5-Bromo-3-methylpyrid-2-yl)butylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine | 0.12 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C=C1O)CC=1C=NC=CC1)C | C21H23BrN4O
